US04550105
To a solution of 1.3 g of (3S,4S)-4-azido-3-tritylamino-2-oxoazetidine in 15 ml of acetone is added 0.736 g of p-toluenesulfonic acid monohydrate. The mixture is treated in a same manner to Reference Example 45B to give 0.886 g of tosyl salt of (3S,4S)-3-amino-4-azido-2-oxoazetidine.

reactant | (3S,4S)-4-azido-3-tritylamino-2-oxoazetidine | 1.3 g | N(=[N+]=[N-])[C@H]1[C@@H](C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H19N5O
reactant | p-toluenesulfonic acid monohydrate | 0.736 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | (3S,4S)-3-amino-4-azido-2-oxoazetidine | N[C@@H]1C(N[C@H]1N=[N+]=[N-])=O | C3H5N5O
